US07645789B2
To a solution of ethyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)acetate (0.010 g, 0.025 mmol) in THF (0.3 mL) were added LiOH.H2O (0.002 g, 0.05 mmol) and water (0.15 mL) were added. The mixture was stirred at room temperature for 2 h. dichloromethane (3 mL) was added to the reaction mixture and the organic layer was washed with 1 N HCl (2×1.5 mL) and water (2×1.5 mL). The organic layer was dried over Na2SO4 and filtered. The filtrate was evaporated under reduced pressure to give 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)-acetic acid. 1H NMR (400 MHz, DMSO-d6) δ 12.53 (s, 1H), 10.90 (s, 1H), 8.42 (s, 1H), 7.57 (s, 1H), 7.17 (d, J=8.6 Hz, 1H), 7.05-6.90 (m, 4H), 6.17 (s, 1H), 6.02 (s, 2H), 3.69 (s, 2H), 1.41-1.39 (m, 2H), 1.04-1.02 (m, 2H).

reactant | ethyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)acetate | 0.025 mmol, 0.010 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)CC(=O)OCC | C23H22N2O5
reactant | LiOH.H2O | 0.05 mmol, 0.002 g | O[Li].O
reactant | water | 0.15 mL | O | H2O
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)-acetic acid | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)CC(=O)O | C21H18N2O5
